US05424333
t-Butylhydrazine (0.1 mol) in 75 ml ethanol was treated with 50% aqueous sodium hydroxide (0.11 mol). Phthalide (0.1 mol) was added and the mixture was refluxed for 5 days. After cooling, water was added and the crude product was isolated by filtration. Filtration through silica gel afforded N'-t-butyl-N-(2-hydroxymethylbenzoyl)hydrazine (3.0 g): m.p. 116°-118° C.

reactant | t-Butylhydrazine | 0.1 mol | C(C)(C)(C)NN | C4H12N2
reactant | sodium hydroxide | 0.11 mol | [OH-].[Na+]
reactant | Phthalide | 0.1 mol | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | water | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | N'-t-butyl-N-(2-hydroxymethylbenzoyl)hydrazine | 3.0 g | C(C)(C)(C)NNC(C1=C(C=CC=C1)CO)=O | C12H18N2O2
